US03954757
A solution of 5.7 g of 5-methoxy-indole-2-carboxylic acid in 70 ml of hot methanol is added portionwise to a solution of 15 g potassium iodide and 7.6 g of iodine in 45 ml of water. This is further treated with a solution of 3.48 g of 1,4,5,6-tetrahydro-2-pyrimidinethiol in 70 ml of hot methanol, stirred at room temperature for 2 hours and filtered. The filtrate is worked up in the manner described under Example 1 to yield 5-methoxy-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide which melts at 239°-240° after recrystallization from a mixture of methanol, ethyl acetate and ether.

reactant | 5-methoxy-indole-2-carboxylic acid | 5.7 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | potassium iodide | 15 g | [I-].[K+]
reactant | iodine | 7.6 g | II | I2
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 3.48 g | N1C(=NCCC1)S | C4H8N2S
solvent | methanol | 70 ml | CO | CH4O
solvent | water | 45 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 5-methoxy-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide | I.COC=1C=C2C(=C(NC2=CC1)C(=O)O)SC=1NCCCN1 | InChI=1S/C14H15N3O3S.HI/c1-20-8-3-4-10-9(7-8)12(11(17-10)13(18)19)21-14-15-5-2-6-16-14;/h3-4,7,17H,2,5-6H2,1H3,(H,15,16)(H,18,19);1H
